US05175164
Step A: Preparation of 2-chloro-6-cyanobenzyl bromide
To a refluxing solution of 3-chloro-2-methylbenzonitrile (2.0 g,13.2 mmol) in 20 mL of CCl4 was added 2.6 g (14.4 mmol, 1.1 eq) of N-bromosuccinimide and 0.2 g of AIBN. The solution was refluxed for 3 hours and then cooled, diluted with 500 mL of CH2Cl2 and washed with 200 mL of H2O and 200 mL of brine. The organic phase was dried over MgSO4, filtered and concentrated in vacuo. The resultant oil was flash chromatographed with 5:1 hexane/ethyl acetate to yield the titled compound (1.4 g, 46%) as a yellow oil.

reactant | 3-chloro-2-methylbenzonitrile | 13.2 mmol, 2.0 g | ClC=1C(=C(C#N)C=CC1)C | C8H6ClN
reactant | N-bromosuccinimide | 14.4 mmol, 2.6 g, 1.1 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 0.2 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-6-cyanobenzyl bromide | 1.4 g, 46% | ClC1=C(CBr)C(=CC=C1)C#N | C8H5BrClN
